US04539410
A mixture of 600 mg of 1-(4-cyanobutyl)-3-methyl-2-(1-imidazolyl)indole, 173 mg of sodium azide, 142 mg of ammonium chloride and 5 mg of lithium chloride in 2 ml of dimethylformamide is heated at 120° overnight. After cooling the mixture is filtered and the filtrate diluted with ca. 25 ml of water. After the pH is adjusted to 10-11 with 3N NaOH, the solution is washed with ether to remove unreacted nitrile. The aqueous phase is adjusted to pH 5-6 with 2N HCl and extracted with ethylacetate. The extract is washed with water, dried over magnesium sulfate and concentrated in vacuo. The solid residue is slurried in petroleum ether and collected to give 1-[4-(5-tetrazolyl)-butyl]-3-methyl-2-(1-imidazolyl)indole.

reactant | 1-(4-cyanobutyl)-3-methyl-2-(1-imidazolyl)indole | 600 mg | C(#N)CCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C17H18N4
reactant | sodium azide | 173 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 142 mg | [Cl-].[NH4+]
reactant | lithium chloride | 5 mg | [Cl-].[Li+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-[4-(5-tetrazolyl)-butyl]-3-methyl-2-(1-imidazolyl)indole | N1N=NN=C1CCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C17H19N7
